US08703742B2
3-(3-Benzyloxy-propoxy)-2-bromo-4-methoxy-benzaldehyde
Synthesized according to the methods of general procedure 4 in U.S. Pat. Pub. No. 20090227541 (U.S. patent application Ser. No. 12/142,692) using the following reactants and amounts: 2-bromo-3-hydroxy-4-methoxy-benzaldehyde (1.0 g, 4.32 mmol), (3-bromo-propoxymethyl)-benzene (0.76 mL, 4.32 mmol), cesium carbonate (2.11 g, 6.5 mmol), DMF (30 mL). Purification: flash chromatography (10% EtOAc/hexanes): yield 1.54 g (95%). 1H NMR (400 MHz, CDCl3) δ (ppm): 10.26 (s, 1H), 7.73 (d, J=8.6 Hz, 1H), 7.46-7.18 (m, 5H), 6.95 (d, J=8.6 Hz, 1H), 4.56 (s, 2H), 4.14 (t, J=6.1 Hz, 2H), 3.92 (s, 3H), 3.77 (t, J=6.2 Hz, 2H), 2.15 (quin, J=6.5 Hz, 2H); MS (ESI): m/z=381 (M+1, positive).

reactant | 2-bromo-3-hydroxy-4-methoxy-benzaldehyde | 4.32 mmol, 1.0 g | BrC1=C(C=O)C=CC(=C1O)OC | C8H7BrO3
reactant | (3-bromo-propoxymethyl)-benzene | 4.32 mmol, 0.76 mL | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | cesium carbonate | 6.5 mmol, 2.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-(3-Benzyloxy-propoxy)-2-bromo-4-methoxy-benzaldehyde | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=CC1OC)Br | C18H19BrO4
